US06503949B1
Step C: Resin Bound 3-({4-[(4-tert-butylcyclohexylamino)methyl]benzoyl}cyclopropylmethylamino)propionic Acid
The above resin bound 3-[cyclopropylmethyl-(4-formylbenzoyl)amino]propionic acid (50 mg) was treated with 1 mL 0.5 M (0.5 mmol, 77.5 mg) 4-tert-butylcyclohexylamine solution in DMF:trimethylorthoformate 1:1, 100 μL glacial acetic acid and sodium cyanoborohydride (750 μmol, 48 mg) suspended in 0.5 mL DMF:trimethylorthoformate 1:1. Overnight shaking at 25° C. followed by filtration and washing with 2×1 mL 20% H2O in DMF, 3×1 mL DMF and 2×1 mL dichloromethane afforded the desired product.

reactant | 3-[cyclopropylmethyl-(4-formylbenzoyl)amino]propionic acid | 50 mg | C1(CC1)CN(CCC(=O)O)C(C1=CC=C(C=C1)C=O)=O | C15H17NO4
reactant | 4-tert-butylcyclohexylamine | 0.5 mmol, 0.5 M, 1 mL, 77.5 mg | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 750 μmol, 48 mg | C(#N)[BH3-].[Na+]
solvent | DMF trimethylorthoformate | CN(C)C=O.COC(OC)OC
solvent | DMF trimethylorthoformate | 0.5 mL | CN(C)C=O.COC(OC)OC
product | 3-({4-[(4-tert-butylcyclohexylamino)methyl]benzoyl}cyclopropylmethylamino)propionic Acid | C(C)(C)(C)C1CCC(CC1)NCC1=CC=C(C(=O)N(CCC(=O)O)CC2CC2)C=C1 | C25H38N2O3
